US05747498
4-Chloro-6,7-dimethoxyquinazoline (500 mg, 2.23 mmol) and 3-(2'-trimethylsilylethynyl)-4-fluoroaniline (507 mg, 2.44 mmol) were refluxed in 5 mL of tert-butyl alcohol for 16 hours, cooled and filtered to afford solid (6,7-dimethoxy-quinazolin-4-yl)-(3'-ethynyl-phenyl)-amine hydrochloride which was washed with 10 mL of isopropyl alcohol and dried in vacuo at 70° C., 832 mg (83%). This was reacted in 10 mL of methanol and 1 drop of water containing 250 mg of potassium carbonate for 3 hours. The mixture was filtered and the filtrate vacuum evaoprated. This residue was triturated for 1 hour with 1N hydrochloric acid, filtered and washed with a minimum amount of water then methanol and dried in vacuo; 506 mg (63%) mp 229° C. dec.

reactant | 4-Chloro-6,7-dimethoxyquinazoline | 2.23 mmol, 500 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 3-(2'-trimethylsilylethynyl)-4-fluoroaniline | 2.44 mmol, 507 mg | C[Si](C#CC=1C=C(N)C=CC1F)(C)C | C11H14FNSi
solvent | tert-butyl alcohol | 5 mL | C(C)(C)(C)O | C4H10O
product | (6,7-dimethoxy-quinazolin-4-yl)-(3'-ethynyl-phenyl)-amine hydrochloride | Cl.COC=1C=C2C(=NC=NC2=CC1OC)NC1=CC(=CC=C1)C#C | InChI=1S/C18H15N3O2.ClH/c1-4-12-6-5-7-13(8-12)21-18-14-9-16(22-2)17(23-3)10-15(14)19-11-20-18;/h1,5-11H,2-3H3,(H,19,20,21);1H
